US05519040
2-Bromothiazole (6.09 mmol, 1.0 g) was added to 40 mL of acetonitrile. CuI (1.52 mmol, 0.29 g), triethylamine (7.31 mmol, 1.01 mL) and bistriphenylphosphine palladium chloride (0.3 mmol, 0.21 g) were added and the solution degassed. Hexyne (6.09 mmol, 0.7 mL) was added and the mixture heated at refluxed overnight. Water was added followed by NaCl and ether. The layers were separated and the aqueous layer extracted with ether (4x). The organic layers were combined, dried (MgSO4), filtered and concentrated. The residue was subjected to flash chromatography (10% ethyl acetate/hexane) to afford 0.36 g (36%) of 2-(1-hexynyl)thiazole.

reactant | 2-Bromothiazole | 6.09 mmol, 1.0 g | BrC=1SC=CN1 | C3H2BrNS
reactant | triethylamine | 7.31 mmol, 1.01 mL | C(C)N(CC)CC | C6H15N
reactant | Hexyne | 6.09 mmol, 0.7 mL | C#CCCCC | C6H10
reactant | NaCl | [Na+].[Cl-]
catalyst | CuI | 1.52 mmol, 0.29 g | [Cu]I
solvent | ether | CCOCC | C4H10O
solvent | Water | O | H2O
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 2-(1-hexynyl)thiazole | 0.36 g, 36% | C(#CCCCC)C=1SC=CN1 | C9H11NS
